US04705853
2-[2-(1-Azetidinyl)ethyl]-7-chloro-2,3-dihydro-4,8-dimethylpyrido[3,2-f]-1,4-oxazepin-5(4H)-one oxalate [1:1]
To a solution of 5.0 g (0.017 mole) of 7-chloro-2-(2-chloroethyl)-2,3-dihydro-4,8-dimethylpyrido[3,2-f]-1,4-oxazepin-5(4H)-one in 20 ml of dimethyl sulfoxide was added ~7 g of sodium carbonate (crushed) and 2.46 g (0.043 mole) of azetidine. The reaction mixture was stirred for 2 days at room temperature and poured into 200 ml of water. The aqueous mixture was extracted with 3×100 ml of benzene. The combined benzene extracts were washed with 2×100 ml of water, dried over sodium sulfate, filtered and concentrated by rotary evaporation. The residue was treated with oxalic acid in isopropyl alcohol which gave 5 g (73%) of white analytically pure crystals, m.p. 191°-92° C.

reactant | 7-chloro-2-(2-chloroethyl)-2,3-dihydro-4,8-dimethylpyrido[3,2-f]-1,4-oxazepin-5(4H)-one | 0.017 mole, 5.0 g | ClC1=CC=2C(N(CC(OC2N=C1C)CCCl)C)=O | C12H14Cl2N2O2
reactant | sodium carbonate | ~7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | azetidine | 0.043 mole, 2.46 g | N1CCC1 | C3H7N
reactant | water | 200 ml | O | H2O
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 2-[2-(1-Azetidinyl)ethyl]-7-chloro-2,3-dihydro-4,8-dimethylpyrido[3,2-f]-1,4-oxazepin-5(4H)-one oxalate | C(C(=O)O)(=O)O.N1(CCC1)CCC1OC2=C(C(N(C1)C)=O)C=C(C(=N2)C)Cl | InChI=1S/C15H20ClN3O2.C2H2O4/c1-10-13(16)8-12-14(17-10)21-11(9-18(2)15(12)20)4-7-19-5-3-6-19;3-1(4)2(5)6/h8,11H,3-7,9H2,1-2H3;(H,3,4)(H,5,6)
